US09371276B1
To a solution of compound 3 (10 mmol), BOP (10 mmol) and Et3N (13 mmol) in CH2Cl2 (20.0 mL) was added H2N-Leu-OMe HCl (10 mmol) and stirred at RT for 12 hrs. The reaction mixture was diluted with water, organic layer was separated and solvent was evaporated in vacuo. The crude product was purified by flash chromatography (20-40% EtOAc/Hexanes) afforded EPA-Leu-Leu-OMe, compound 4 intermediate (6.5 mmol) as light yellow syrup. The obtained intermediate was hydrolyzed with 1N NaOH and subsequent quenching with dil HCl, and extracted with EtOAc (2×10 mL) provided ((5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaenoyl)-L-leucyl-L-leucinate, compound 4 as yellow syrup.

reactant | BOP | 10 mmol | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | Et3N | 13 mmol | CCN(CC)CC | C6H15N
reactant | H2N-Leu-OMe HCl | 10 mmol | N[C@@H](CC(C)C)C(=O)OC.Cl
reactant | water | O | H2O
solvent | CH2Cl2 | 20.0 mL | C(Cl)Cl | CH2Cl2
product | Leu-Leu-OMe | N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OC | C13H26N2O3
